US08440838B2
Production of 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)thiophenol
In a 50-ml eggplant flask provided with a magnetic stirrer was placed 3.44 g (9.6 mmol) of 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzenesulfonyl chloride, followed by addition of 3.14 g (48 mmol) of zinc, 16 ml of ethanol and 8 ml (80 mmol) of 35% hydrochloric acid. The mixture was stirred at room temperature for 30 minutes and then refluxed with heating, for 4 hours. The mixture was cooled to room temperature. Thereto were added 50 ml of water and 50 ml of ethyl acetate to give rise to phase separation. The aqueous phase was extracted with 50 ml of ethyl acetate. The ethyl acetate phase was washed with water and then with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. Vacuum distillation was conducted to distill off ethyl acetate to obtain a title compound as 2.25 g of a crystal. Yield: 86%

reactant | 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzenesulfonyl chloride | 9.6 mmol, 3.44 g | CC1=C(C=C(C(=C1)C)N1N=C(N=C1)C(F)(F)F)S(=O)(=O)Cl | C11H9ClF3N3O2S
reactant | ethanol | 16 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 80 mmol, 8 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
catalyst | zinc | 48 mmol, 3.14 g | [Zn] | Zn
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)thiophenol | Yield: 86% | CC1=C(C=C(C(=C1)C)N1N=C(N=C1)C(F)(F)F)S | C11H10F3N3S
